Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Unwitnessed fall
 
Major Surgical or Invasive Procedure:
TTE

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
===========================
___ year old woman who lives alone and has a history of 
hypertension, presented to the ED by ambulance for an 
unwitnessed fall. 

Per EMS report: a medical alarm company was alerted to her fall 
and the BFD arrived prior to EMS. They stated that the patient 
was lying facedown on her bedroom floor with blood coming from 
the right nare. BFD sat the patient up and placed patient in a 
cervical collar as EMS was arriving. The patient would moan in 
response to verbal stimuli, but was unable to appropriately 
answer EMS questions or follow commands. On exam the patient was 
found to have abrasions on both knees, a hematoma forming in the 
middle of her forehead, and her right leg appeared shorter than 
the left, but she had no pelvic instability or tenderness on 
palpation, and three was no rotation of the right leg. The
patient would answer yes to having pain, but was unable to 
localize or tell EMS where she was having the pain. She reported 
falling while getting dressed but could not elaborate. 

On arrival to the ED, pt denies details of the fall, though 
states that she fell over and hit her head against the 
nightstand. She endorsed an episode of substeranl chest pain 
last week whle moving around her house, though this only lasted 
seconds. She has not had any more chest pain, and denies 
palpitations, shortness of breath or headache prior to the fall. 
She did endorse some light headedness with positional changes in 
the ED, but has no pain or other bothersome symptoms. 

In the ED, initial vital signs were T 36.7, HR 84, BP 192/68 RR 
16 O2 98% RA,. A C CBC and chemistry were normal. Troponins were 
negative x2. A UA was also unremarkable. She had a normal XR of 
her left hand and chest; a CT-C spine was normal and a NCHCT was 
remarkable only for 5 mm left frontal soft tissue edema. ECG 
with stable LBBB. The patient was originally admitted to ED obs 
for ___, but was unable to work with ___ due to positive 
orthostatics the morning of ___ (lying to sitting BPs: 159/64 
--> 138/58 --> 100/38); per ___ note, her BP also dropped this 
evening . In addition to her home baby aspirin, she was given a 
1L fluid at ___ at noon to 4PM. Upon standing with ___, her 
BP dropped
again to 63/36, limiting therapy. She was started on continuous 
normal saline at 100cc/hr at 7:15PM. The decision was made to 
admit to medicine for further evaluation of her unwitnessed 
fall, medical optimization, physical therapy and case management 
support. VS prior to transfer were T 98.8, HR 77, BP 150/56, RR
18, O2 97% RA

On arrival to the floor, the pt is quite confused as she was 
unfortunately woken up for the interview. She believes she is at 
home, but when explained that she is in the hospital she is not 
surprised. She has a hard time discussing the history, though 
does state that she noted a strange fleeting feeling in her 
chest earlier this week. She also reports significantly 
increased
urinary frequency ocer the last 24 hours. She says, "I had no 
idea what to do! I just kept peeing." Denies dysuria, hematuria. 
She also reports double vision which is bothersome, but has been 
present for about ___ years. No headache. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
==============================
Hypertension
Eczema

 
Social History:
___
Family History:
unknown

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: 98.1 142/74 75 16 97 Ra 
GENERAL: Sleeping but arousable. Confused, oriented to name, 
year and president but thought she was in her living room
HEENT: facial symmetry, mild right sided swelling, dry lips,
PERRL, EOMI, ?left beating horizontal nystagmus
CARDIAC: Regular rate and rhythm, soft S1 S2, no audible murmurs
LUNGS: Clear anteriorly
ABDOMEN: soft, NT, ND
EXTREMITIES: No clubbing, cyanosis, or edema. +bilateral 
abrasions on knee caps. 

DISCHARGE PHYSICAL EXAM:
=========================
Vitals:Temp: 97.6 (Tm 98.1), BP: 172/76 (52-189/50-85), HR: 62
(61-79), RR: 17 (___), O2 sat: 97% (95-98), O2 delivery: Ra
General: Alert and oriented to person, place, and date. NAD. 
Patient resting comfortably in bed. Was transiently and 
appropriately disoriented when waking but converses well after 
putting on glasses.
HEENT: Sclera anicteric, MMM, oropharynx clear  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, moderately TTP suprapubic
Ext: Warm, well perfused, no clubbing, cyanosis or edema. 
Abrasions on knees.
Neuro: Moving all limbs with purpose against gravity. Not 
dysarthric.
 
Pertinent Results:
ADMISSION LABS ___:
WBC-7.1 RBC-3.99 Hgb-12.2 Hct-37.9 MCV-95 MCH-30.6 MCHC-32.2 
RDW-12.7 RDWSD-44.1 Plt ___
Neuts-69.9 ___ Monos-5.6 Eos-1.3 Baso-0.8 Im ___ 
AbsNeut-4.98 AbsLymp-1.57 AbsMono-0.40 AbsEos-0.09 AbsBaso-0.06
___ PTT-29.5 ___
Glucose-97 UreaN-35* Creat-1.2* Na-141 K-5.7* (whole blood 4.9) 
Cl-107 HCO3-22 AnGap-12 Calcium-9.1 Phos-3.4 Mg-1.9
cTropnT-<0.01 x2

IMAGING:
1. ___ Left hand XR: no acute fracture
2. ___iapical calcifications likely due 
to pleural based scarring bilaterally.  No superimposed acute 
cardiopulmonary process.
3. ___ ___: Mild left frontal soft tissue edema with no 
evidence of underlying fracture or intracranial hemorrhage.
4. CT spine without contrast: 1. No cervical spine fracture or 
malalignment. 2.  Moderate multilevel degenerative changes of 
the cervical spine.
5. TTE ___ - Impression - Preserved biventricular systolic 
function. At least moderate tricuspid regurgitation. Mild to 
moderate mitral regurgitation. Mild pulmonary hypertension.

DISCHARGE LABS:
-------------------
___ 08:00AM BLOOD WBC-9.3 RBC-4.02 Hgb-12.2 Hct-37.4 MCV-93 
MCH-30.3 MCHC-32.6 RDW-12.6 RDWSD-43.3 Plt ___
___ 08:00AM BLOOD Glucose-94 UreaN-29* Creat-1.0 Na-139 
K-5.4 Cl-104 HCO3-25 AnGap-10
___ 10:38AM BLOOD Calcium-9.1 Phos-3.6 Mg-1.___RIEF HOSPITAL COURSE:  
====================  
___ year old woman who lives alone and has a history of 
hypertension and double vision presented to the ED by ambulance 
for an unwitnessed fall.  

TRANSITONAL ISSUES:  
====================  
- Pt to discontinue lisinopril given orthostasis and age. 
Unlikely to provide significant mortality benefit/improvement in 
quality of life at this age. ___ f/u with PCP to ___

- Patient lives at home with 2 sets of stairs and is noted to be 
unsteady on her feet. Would benefit from social work help

ACUTE/ACTIVE ISSUES:
====================
# Unwitnessed Fall: Patient was found down at home, with + loss 
of consciousness. Per history, appears that she bent down to put 
on her shoes but denies any preceding symptoms and duration of 
the episode is unclear. In the ED, patient had positive 
orthostatics. BP improved with fluids but she continues to be 
orthostatic. Cardiac workup for syncope was negative (unchanged 
EKG from ___ and TTE on ___ showing preserved biventricular 
systolic function). Likely that patient is orthostatic at 
baseline with mechanical component of putting on her shoes lead 
to fall.
- Fall precautions - patient has a walker that she does not use 
much at home. Encouraged use of her walker
- TEDS stockings to the thigh to improve venous return/BP
- Discontinue ACE-I for now given fall risk

# Urinary retention:
# Increased urinary frequency:
Found to be retaining and required intermittent straight caths. 
Unclear duration, though may be acute due to stress of 
hospital/fall. UA is unremarkable. Patient receiving q6hr 
bladder scans with occasional PVRs >500cc requiring straight 
cath. Patient urinating with purewick
- Avoid anticholinergics 
- Bladder scan and straight cath as needed

# Social support:
Lives alone, widowed.  Has two sets of 10 stairs, one set going 
to second floor, one set going to basement. Has a neighbor 
(___) who helps care for her over the last year and is her 
HCP; also has a longtime friend (___) who helps take her 
grocery shopping. Also has ___ from Ethos that assists her 
with bathing. ___, SW and case management consulted.

# Code status:
Pt is DNR/DNI per MOLST documented by ___. However, after 
discussion with ___ (___) and patient, patient admits that she 
thinks the previous MOLST was too drastic. She instead would 
like resuscitative efforts if there is a reasonable chance of 
recovery, but does not want to be kept alive on tubes. Will 
change code status to "Full Code with limited trial of 
life-sustaining treatment" and fill out a new MOLST.
- New MOLST completed on ___ stating patient wants 
intubation/resuscitation with limited trial of life-sustaining 
treatment

CHRONIC/STABLE ISSUES:
======================
# Right sided double vision/ ___ Syndrome:
Per pt, this has been chronic for the last ___ years. Prior PCP 
felt this was ___ Syndrome but pt decline trial of 
low dose Seroquel or olanzapine.

# Hypertension:
Pt is hypertensive though given above will hold home lisinopril 
at this time given orthostasis. 

# CKD:
Admission BUN/Cr 34/1.2. Most recent Cr per atrius records are
1.25 and 1.4. Will renally dose medications

#80% R carotid stenosis.
-Continue home aspirin 81mg

# Altered mental status:
Per EMS report and admission note was confused on exam. Today 
patient is back to her baseline, is A&Ox3 and conversing with 
some hearing difficulty. Her confusion likely due to the high 
stress situation and change of environment. Low concern for 
infection given normal UA, afebrile and reassuring exam.

# Left hand pain: s/p fall, XR without fracture. Tylenol for 
pain control
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Unwitnessed fall
orthostasis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital after you fell at home.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL? 
- We found that your blood pressure was low, likely due to 
dehydration.
- We gave you fluids and your blood pressure improved 

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Show up to your appointments as listed below.

We wish you the best!  

Sincerely,  

Your ___ Team

 
Followup Instructions:
___